### PR TITLE
[Merged by Bors] - feat: construction of a presheaf of modules from a family of modules over various rings

### PR DESCRIPTION
**Pull request by joelriou**
This PR provides constructors for presheaves of modules over a presheaf of rings `R` using families of (bundled or unbundled) modules over `R.obj X` for all `X`.

---

These constructions are necessary in order to study limits in the category of presheaves of modules. (The construction of limits is mostly done in the draft branch `RingMod4` https://github.com/leanprover-community/mathlib4/blob/RingMod4/Mathlib/Algebra/Category/ModuleCat/Presheaf/Limits.lean )

- [x] depends on: #6915

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Category/ModuleCat/Presheaf.lean [hunk 1]
```diff
@@ -3,15 +3,21 @@ Copyright (c) 2023 Scott Morrison All rights reserved.
...
 
 /-!
 # Presheaves of modules over a presheaf of rings.
 
-We give a hands-on description of a presheaf of modules over a fixed presheaf of rings,
+We give a hands-on description of a presheaf of modules over a fixed presheaf of rings `R`,
 as a presheaf of abelian groups with additional data.
 
+We also provide two alternative constructors :
+* `mk' : MkStruct R → PresheafOfModules R` where `M : MkStruct R` consists of a family
```
Comment (jcommelin) [inline Mathlib/Algebra/Category/ModuleCat/Presheaf.lean:16]: I'm not a huge fan of `MkStruct` as a name. In other situations mathlib uses a `Core` prefix, eg to build a normed abelian group from "core data".
Relatedly, in which namespace does `MkStruct` live?

Comment (joelriou) [reply Mathlib/Algebra/Category/ModuleCat/Presheaf.lean:16]: Thanks for the review! Currently, `MkStruct` and `BundledMkStruct` are both under the `PresheafOfModules` namespace. Do you suggest something like `CorePresheafOfModules` and `BundledCorePresheafOfModules` in the root namespace? (I would slightly prefer having this under the `PresheafOfModules` namespace, like `PresheafOfModules.MkCore`, `PresheafOfModules.BundledMkCore`.) What do you think?

Comment (joelriou) [reply Mathlib/Algebra/Category/ModuleCat/Presheaf.lean]: I have changed this to `CorePresheafOfModules` and `BundledCorePresheafOfModules`.

File: Mathlib/Algebra/Category/ModuleCat/Presheaf.lean [hunk 2]
```diff
@@ -203,4 +234,194 @@ instance : Faithful (toPresheaf R) where
...
+
+end BundledCorePresheafOfModules
+
+namespace PresheafOfModules
+
+/-- Constructor for `PresheafOfModules R` based on a collection of objects
+of type `ModuleCat (R.obj X)` for all `X`, and restriction maps expressed
+as linear maps to restriction of scalars, see
+the structure `BundledCorePresheafOfModules`. -/
+noncomputable def mk'' (M : BundledCorePresheafOfModules R) : PresheafOfModules R :=
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/ModuleCat/Presheaf.lean:387]: Same namespace question here.

File: Mathlib/Algebra/Category/ModuleCat/Presheaf.lean [hunk 3]
```diff
@@ -203,4 +234,194 @@ instance : Faithful (toPresheaf R) where
...
+def mk'' : P ⟶ Q where
+  hom :=
+    { app := fun X => (app X).toAddMonoidHom
+      naturality := fun X Y f => by
+        ext x
+        exact congr_hom (naturality f) x }
+  map_smul X := (app X).map_smul
+
+@[simp]
+lemma mk''_app : (mk'' app naturality).app = app := rfl
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/ModuleCat/Presheaf.lean:423]: Maybe this can be grouped together with the `mk'` constructor above?

File: Mathlib/Algebra/Category/ModuleCat/Presheaf.lean [hunk 4]
```diff
@@ -203,4 +234,194 @@ instance : Faithful (toPresheaf R) where
...
+
+end CorePresheafOfModules
+
+namespace PresheafOfModules
+
+/-- Constructor for `PresheafOfModules R` based on a collection of types
+equipped with module structures over the various rings `R.obj X`, see
+the structure `CorePresheafOfModules`. -/
+def mk' (M : CorePresheafOfModules R) : PresheafOfModules R where
+  presheaf := M.presheaf
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/ModuleCat/Presheaf.lean:336]: Why is this in the `PresheafOfModules` namespace and not in the `CorePresheafOfModules` namespace? I would think the latter allows dot notation on `M`?

File: Mathlib/Algebra/Category/ModuleCat/Presheaf.lean [hunk 5]
```diff
@@ -203,4 +234,194 @@ instance : Faithful (toPresheaf R) where
...
+end PresheafOfModules
+
+variable (R) in
+/-- This structure contains the data and axioms in order to
+produce a `PresheafOfModules R` from a collection of types
+equipped with module structures over the various rings `R.obj X`.
+(See the constructor `PresheafOfModules.mk'`.) -/
+structure CorePresheafOfModules where
+  /-- the datum of a type for each object in `Cᵒᵖ` -/
+  obj (X : Cᵒᵖ) : Type v
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/ModuleCat/Presheaf.lean:294]: I am wondering whether it should be `X : Cᵒᵖ` or `X : C`? I guess, the first is more natural for building up the theory while the former might be more convenient to use?

File: Mathlib/Algebra/Category/ModuleCat/Presheaf.lean [hunk 6]
```diff
@@ -177,6 +203,11 @@ instance : Preadditive (PresheafOfModules R) where
 
 end Hom
 
+lemma naturality_apply {M M' : PresheafOfModules R} (f : M ⟶ M')
+    {X Y : Cᵒᵖ} (g : X ⟶ Y) (x : M.obj X) :
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/ModuleCat/Presheaf.lean:207]: To be consistent with the naming in the rest of this file, `M` and `M'` could be called `P` and `Q` here. And should this also be in the `Hom` namespace? Then dot notation works on `f`?

File: Mathlib/Algebra/Category/ModuleCat/Presheaf.lean [hunk 7]
```diff
@@ -3,15 +3,22 @@ Copyright (c) 2023 Scott Morrison All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Scott Morrison
 -/
-import Mathlib.Algebra.Category.ModuleCat.Basic
 import Mathlib.Algebra.Category.Ring.Basic
+import Mathlib.Algebra.Category.ModuleCat.ChangeOfRings
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/ModuleCat/Presheaf.lean:7]: Minor nitpick: Does the import list have to be sorted alphabetically? If yes, the two imports should be in reversed order.

File: Mathlib/Algebra/Category/ModuleCat/Presheaf.lean (hunk 6 above)
Comment (joelriou) [reply Mathlib/Algebra/Category/ModuleCat/Presheaf.lean:207]: I have changed `M` and `M'` to `P`, `Q`, but I am not so sure about the namespace change because dot does not work in that case (Lean does not see that ` P ⟶ Q` is also `Hom P Q`).

File: Mathlib/Algebra/Category/ModuleCat/Presheaf.lean (hunk 3 above)
Comment (joelriou) [reply Mathlib/Algebra/Category/ModuleCat/Presheaf.lean:423]: Yes, thanks for the suggestion.

File: Mathlib/Algebra/Category/ModuleCat/Presheaf.lean (hunk 4 above)
Comment (joelriou) [reply Mathlib/Algebra/Category/ModuleCat/Presheaf.lean:336]: I have changed this to `CorePresheafOfModules.toPresheafOfModules` and similar for the other.

File: Mathlib/Algebra/Category/ModuleCat/Presheaf.lean (hunk 5 above)
Comment (joelriou) [reply Mathlib/Algebra/Category/ModuleCat/Presheaf.lean:309]: Changing `Cᵒᵖ` to `C` may only create more issues while developing the theory, so that I would not rather not experiment with this. It seems to me that the possible gain for the future applications is very close to zero.

**Comment by joelriou** [comment]
Thanks @chrisflav for you suggestions. I have followed most of them.

File: Mathlib/Algebra/Category/ModuleCat/Presheaf.lean [hunk 8]
```diff
@@ -376,52 +388,23 @@ noncomputable def toCorePresheafOfModules : CorePresheafOfModules R where
...
-def mk'' : P ⟶ Q where
-  hom :=
-    { app := fun X => (app X).toAddMonoidHom
-      naturality := fun X Y f => by
-        ext x
-        exact congr_hom (naturality f) x }
-  map_smul X := (app X).map_smul
-
-@[simp]
-lemma mk''_app : (mk'' app naturality).app = app := rfl
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/ModuleCat/Presheaf.lean]: Just making sure: You made `mk''` an `abbrev` so this is no longer needed?

**Review by chrisflav — APPROVED** [review]

File: Mathlib/Algebra/Category/ModuleCat/Presheaf.lean (hunk 8 above)
Comment (joelriou) [reply Mathlib/Algebra/Category/ModuleCat/Presheaf.lean]: Yes!

File: Mathlib/Algebra/Category/ModuleCat/Presheaf.lean [hunk 9]
```diff
@@ -203,4 +215,196 @@ instance : Faithful (toPresheaf R) where
...
+  presheaf := M.presheaf
+
+@[simp]
+lemma toPresheafOfModules_obj (X : Cᵒᵖ) :
+    M.toPresheafOfModules.obj X = ModuleCat.of _ (M.obj X) := rfl
+
+@[simp]
+lemma toPresheafOfModules_presheaf_map_apply {X Y : Cᵒᵖ} (f : X ⟶ Y) (x : M.obj X) :
+    M.toPresheafOfModules.presheaf.map f x = M.map f x := rfl
+
```
Comment (kbuzzard) [inline Mathlib/Algebra/Category/ModuleCat/Presheaf.lean:356]:
```suggestion
```

**Review by kbuzzard — COMMENTED** [review]
LGTM!

**Comment by joelriou** [comment]
Thanks for the review!

bors merge
